US06468995B1
Diphenylmethyl 7β-amino-3-[(4-pyridyl)methylthio]-3-cephem-4-carboxylate (2.15 g, 4.39 m mol) was dissolved in dichloromethane (50 ml) by addition of bis(trimethylsilyl)acetamide (1.79 g, 8.78 m mol). To a resulting solution was added 2-(2-aminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetyl chloride hydrochloride (1.50 g, 5.27 m mol) at 5° C. and the mixture was stirred at 5° C. for 1.5 hours and at room temperature for 16 hours. The mixture was poured into a mixture of water and methanol and adjusted to pH 7 by addition of 1N NaOH aq. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated in vacuo to give diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetamido]-3-[(4-pyridyl)methylthio]-3-cephem-4-carboxylate (2.37 g).

reactant | Diphenylmethyl 7β-amino-3-[(4-pyridyl)methylthio]-3-cephem-4-carboxylate | 2.15 g | N[C@H]1[C@@H]2N(C(=C(CS2)SCC2=CC=NC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C26H23N3O3S2
reactant | bis(trimethylsilyl)acetamide | 1.79 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 2-(2-aminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetyl chloride hydrochloride | 1.50 g | Cl.NC=1SC=C(N1)/C(/C(=O)Cl)=N/OC(C)=O
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetamido]-3-[(4-pyridyl)methylthio]-3-cephem-4-carboxylate | 2.37 g | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC2=CC=NC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C)=O | C33H28N6O6S3
